US07524840B2
(2-amino-5-methoxy-4-trifluoromethylphenyl)-(2-chlorophenyl)-methanone (Xee) was prepared by reacting 2-chlorobenzaldehyde with 0.0263 moles of 4-methoxy-3-trifluoromethyl aniline in a manner analogous to Example 1. MH+/Z=330.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 4-methoxy-3-trifluoromethyl aniline | 0.0263 moles | COC1=C(C=C(N)C=C1)C(F)(F)F | C8H8F3NO
product | (2-amino-5-methoxy-4-trifluoromethylphenyl)-(2-chlorophenyl)-methanone | NC1=C(C=C(C(=C1)C(F)(F)F)OC)C(=O)C1=C(C=CC=C1)Cl | C15H11ClF3NO2
